US07576122B2
Step C: N-(3,3-dimethylbutyl)-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]-N-ethylacetamide
To a mixture containing 21.8 mg 1-tert-butyl-6-methoxy-3H-pyrano[3,4-b][1]benzofuran-3-one from the Step B above and 21.6 mg N-Ethyl-3,3-dimethylbutan-1-amine hydrochloride from the Step A above in 0.75 mL DMF was 26 μL DIEA. The mixture was heated in 45° C. oil bath over night. It was purified directly on RP-HPLC using 65˜85% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound. LC-MS: 4.38 min. (m/Z=318.2, 402.3, 424.3). Alternative preparation of N-(3,3-dimethylbutyl)-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]-N-ethylacetamide

reactant | 1-tert-butyl-6-methoxy-3H-pyrano[3,4-b][1]benzofuran-3-one | 21.8 mg | C(C)(C)(C)C=1OC(C=C2C1OC1=C2C=C(C=C1)OC)=O | C16H16O4
reactant | N-Ethyl-3,3-dimethylbutan-1-amine hydrochloride | 21.6 mg | Cl.C(C)NCCC(C)(C)C
reactant | DIEA | 26 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | N-(3,3-dimethylbutyl)-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]-N-ethylacetamide | CC(CCN(C(CC1=C(OC2=C1C=C(C=C2)OC)C(C(C)(C)C)=O)=O)CC)(C)C | C24H35NO4
